US08735414B2
A 2 L dry round bottom flask was charged with 1-bromo-2-fluoro-4-methyl-5-nitrobenzene (24.5 g, 0.1 mol, 97%), DMF-DIPA (39 g, 0.22 mol), Et3N (16 mL, 0.11 mol) and dry DMF (100 mL). The mixture was stirred at 130° C. for 2 h. After removal of the volatiles the residue was dissolved in a mixture of toluene (650 mL) and acetic acid (390 mL) followed by addition of iron powder (55 g) and silica gel (50 g). The dark red mixture was heated to 100° C. with vigorous stirring. The dark color disappeared after refluxing for 20 min indicating completion of reaction. The mixture was then cooled to 25° C., diluted with EtOAc and filtered. The cake was washed thoroughly with EtOAc. The combined filtrates were washed with sat. aq. Na2S2O5, sat. aq. NaHCO3, and brine, dried over Na2SO4 and concentrated. The residue was purified on a silica gel column eluting with 5/1 hexanes/CH2Cl2 to provide 6-bromo-5-fluoro-1H-indole as a white crystalline solid (16.2 g, 76%).

reactant | 1-bromo-2-fluoro-4-methyl-5-nitrobenzene | 0.1 mol, 24.5 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C)F | C7H5BrFNO2
reactant | Et3N | 0.11 mol, 16 mL | CCN(CC)CC | C6H15N
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-bromo-5-fluoro-1H-indole | 16.2 g, 76% | BrC1=C(C=C2C=CNC2=C1)F | C8H5BrFN
